US08357703B2
Rac-6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-1-methyl-ethyl)-nicotinamide
A mixture of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (250 mg, 0.82 mmol), rac-2-amino-1-propanol (63 mg, 0.84 mmol) and TBD (29 mg, 0.21 mmol) was stirred for 15 h at room temperature under argon. The reaction mixture was concentrated onto silica then purified by chromatography (silica, 0 to 4% methanol in dichloromethane) to give the title compound (145 mg, 60%) as a white solid after trituration with diisopropyl ether. MS: m/e=348.3 [M+H]+.

reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.82 mmol, 250 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
reactant | rac-2-amino-1-propanol | 0.84 mmol, 63 mg | NC(CO)C | C3H9NO
product | Rac-6-((3-Butyl-5-methyl-isoxazol-4-yl)methoxy)-N-(2-hydroxy-1-methyl-ethyl)-nicotinamide | 145 mg, 60% | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)NC(CO)C)C=C1)C | C18H25N3O4
